US07825253B2
N5-(1H-Indol-4-ylmethyl)-N2-(2-methyl-benzofuran-7-yl)-quinoline-2,5-diamine
The title compound, MS: m/e=419.1 (M+H+), was prepared in accordance with the general method of example 1 from 5-iodo-2-chloroquinoline, (2-methyl-1-benzofuran-7-yl)amine and 4-aminomethylindole.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | (2-methyl-1-benzofuran-7-yl)amine | CC=1OC2=C(C1)C=CC=C2N | C9H9NO
reactant | 4-aminomethylindole | NCC1=C2C=CNC2=CC=C1 | C9H10N2
product | N5-(1H-Indol-4-ylmethyl)-N2-(2-methyl-benzofuran-7-yl)-quinoline-2,5-diamine | N1C=CC2=C(C=CC=C12)CNC=1C=2C=CC(=NC2C=CC1)NC1=CC=CC=2C=C(OC21)C | C27H22N4O
